US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(3,4-dimethoxy-phenylsulfonyl)-propyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxy-phenylsulfonyl)-propyl]-methylamine and selenium dioxide analogously to Example 55.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(3,4-dimethoxy-phenylsulfonyl)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCS(=O)(=O)C2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | C27H38N2O7S
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(3,4-dimethoxy-phenylsulfonyl)-propyl]-methylamine | COC1=CC2=C(C(C(N(CC2)CCCN(CCCS(=O)(=O)C2=CC(=C(C=C2)OC)OC)C)=O)=O)C=C1OC | C27H36N2O8S
